US05093335
(2) Preparation of 2-amino-3-cyclopentylamino-5,6-dicyanopyrazine
4.2 g (0.023 mol) of 2-amino-3-chloro-5,6-dicyanopyrazine was dissolved in 50 ml of dry tetrahydrofuran, and 4.0 g (0.047 mol) of cyclopentylamine was dropwise added thereto at room temperature. After completion of the dropwise addition, the mixture was stirred at 40° C. for 1 hour, and the reaction solution was poured into 500 ml of water. The precipitated solid was collected by filtration and recrystallized from isobutyl alcohol to obtain 4.9 g of slightly yellow crystals (yield: 93.4%, decomposition point: 222° C.).

reactant | 2-amino-3-chloro-5,6-dicyanopyrazine | 0.023 mol, 4.2 g | NC1=NC(=C(N=C1Cl)C#N)C#N | C6H2ClN5
reactant | cyclopentylamine | 0.047 mol, 4.0 g | C1(CCCC1)N | C5H11N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-amino-3-cyclopentylamino-5,6-dicyanopyrazine | yield: 93.4% | NC1=NC(=C(N=C1NC1CCCC1)C#N)C#N | C11H12N6
